US07939661B2
Step 1: 4-(7-Chloro-quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 7-chloro-4-iodo-quinoline (5.33 g, 18.42 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.43 g, 22.11 mmol, 1.2 equiv; commercially available) in toluene (40 mL) was added KOtert-Bu (5.17 g, 46.06 mmol, 2.5 equiv), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (0.18 g, 0.37 mmol, 0.02 equiv; X-Phos ligand [CAS RN 564483-18-7]; commercially available from Strem Chemicals, USA) and tris(dibenzylideneacetone) dipalladium(0) (1.53 g, 1.47 mmol, 0.08 equiv). The reaction mixture was stirred under nitrogen at 100° C. for 16 h, cooled to rt, filtered and the filtrate concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with dichloromethane/methanol (20:1+0.5% triethylamine) and then recrystallized from heptane/ethyl acetate to provide 2.20 g (33%) of the title compound in 80% purity according to 1H NMR. 1H NMR (250 MHz, DMSO): δ 1.42 (s, 9H), 1.46-1.61 (m, 2H), 1.94 (d, J=10.3 Hz, 2H), 2.75-3.03 (m, 2H), 3.88 (br s, 1H), 3.94-4.14 (m, 2H), 6.75 (d, J=6.1 Hz, 1H), 7.56 (d, J=6.9 Hz, 2H), 7.82 (s, 1H), 8.31-8.55 (m, 2H). MS (ESI): 362.2 [M+H]+.

reactant | 7-chloro-4-iodo-quinoline | ClC1=CC=C2C(=CC=NC2=C1)I | C9H5ClIN
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 46.06 mmol, 5.17 g, 2.5 equiv | O([K])C(C)(C)C
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 1.47 mmol, 1.53 g, 0.08 equiv | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-(7-Chloro-quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.20 g, 33% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C19H24ClN3O2
